US05464865
By the method of example 28, 1-bromo-4-(2-methoxyethenyl)benzene is prepared, lithiated, and reacted with dimethylformamide to provide 4-(2-methoxyethenyl) benzaldehyde as a yellow oil after chromatography. This material is converted to 1-(2-phenylethenyl)-4-(2-methoxyethenyl)benzene by Wittig reaction with benzyl triphenylphosphonium chloride, using the conditions described in example 1 (A). The material is obtained as a mixture of all four possible (E) and (Z) stereoisomers.

reactant | 1-bromo-4-(2-methoxyethenyl)benzene | BrC1=CC=C(C=C1)C=COC | C9H9BrO
reactant | dimethylformamide | CN(C=O)C | C3H7NO
product | 4-(2-methoxyethenyl) benzaldehyde | COC=CC1=CC=C(C=O)C=C1 | C10H10O2
